US06897306B2
Preparation 121: (3R)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}hexanoic Acid
A solution of tert-butyl (3R)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}hexanoate (Preparation 120) (240 mg, 0.66 mmol) in dichloromethane (4 ml) was treated with trifluoroacetic acid (1.2 ml) and stirred at room temperature for 4 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene and dichloromethane. The oil was purified by column chromatography on silica gel eluting with 97:3:0.3 (dichloromethane:methanol:acetic acid) to afford the title compound as a white solid (161 mg).

reactant | tert-butyl (3R)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}hexanoate | 0.66 mmol, 240 mg | C1(CCC1)CCC[C@H](CC(=O)OC(C)(C)C)C=1OC=C(N1)C(=O)N(C)C | C20H32N2O4
reactant | trifluoroacetic acid | 1.2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | (3R)-6-cyclobutyl-3-{4-[(dimethylamino)carbonyl]-1,3-oxazol-2-yl}hexanoic Acid | 161 mg | C1(CCC1)CCC[C@H](CC(=O)O)C=1OC=C(N1)C(=O)N(C)C | C16H24N2O4
